US06664395B2
3-Ethyl-3H-benzotriazole-5-carboxylic acid methyl ester (0.143 g) was diluted with tetrahydrofuran (2 mL) and methanol (0.06 mL). Lithium borohydride (0.023 g) was added and the solution was allowed to stand at 23° C. for 30 minutes. The reaction was then poured onto saturated ammonium chloride and extracted with ethyl acetate. The organic layer was dried with sodium sulfate and concentrated to give (3-Ethyl-3H-benzotriazol-5-yl)-methanol (0.13 g).

reactant | 3-Ethyl-3H-benzotriazole-5-carboxylic acid methyl ester | 0.143 g | COC(=O)C1=CC2=C(N=NN2CC)C=C1 | C10H11N3O2
reactant | Lithium borohydride | 0.023 g | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.06 mL | CO | CH4O
product | (3-Ethyl-3H-benzotriazol-5-yl)-methanol | 0.13 g | C(C)N1N=NC2=C1C=C(C=C2)CO | C9H11N3O
